US08236319B2
H-Gly-Gly-Gly-β-Ala-OtBu
1.3 g (2.89 mmol) of Z-Gly-Gly-Gly-β-Ala-OtBu was disolved in 80 mL of 95:5 methanol:deionized water in a 250 mL parr shaker flask to which was added 0.12 g of 10% palladium on carbon. The flask was shaken under a hydrogen atmosphere (42 PSI) for 7 hours. The mixture was vacuum filtered through celite filter aid and the filtrate was concentrated by rotary evaporation under vacuum to give 0.88 g (96%) of the title compound. 1H NMR (d6-DMSO) 8.12 (t, J=1.6 Hz 2H), 8.08 (t, J=1.6 Hz, 1H), 3.75 (s, 2H), 3.64 (d, J=5.9 2H), 3.28 (bs, 2H), 3.24 (q, J=6.0 Hz, 2H), 3.13 (s, 2H), 2.35 (t, J=6.8 Hz, 2H), 1.39 (s, 9H). 13C NMR (d6-DMSO) 173.38, 170.46, 169.18, 168.70, 79.89, 44.65, 41.95, 34.88, 34.78, 27.71. HRMS (M+H+) Calc. 317.1825, found 317.1801

reactant | Z-Gly-Gly-Gly-β-Ala-OtBu | 2.89 mmol, 1.3 g | N(CC(=O)NCC(=O)NCC(=O)NCCC(=O)OC(C)(C)C)C(=O)OCC1=CC=CC=C1 | C21H30N4O7
reactant | water | O | H2O
solvent | methanol | 80 mL | CO | CH4O
catalyst | palladium on carbon | 0.12 g | [Pd] | Pd
product | H-Gly-Gly-Gly-β-Ala-OtBu | 0.88 g, 96% | NCC(=O)NCC(=O)NCC(=O)NCCC(=O)OC(C)(C)C | C13H24N4O5
